US09388199B2
A. (1R,3S,5R)-3-(3,3-Dimethyl-butylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane 2-carboxylic acid tert-butyl ester
To a solution of (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester (300 mg, 1.32 mmol), 3,3-dimethyl-butylamine (134 mg, 1.32 mmol) and HBTU (751 mg, 1.98 mmol) in CH2Cl2 (9 mL) under a nitrogen atmosphere was added DIPEA (0.922 mL, 5.28 mmol). The reaction mixture was stirred at RT for 16 h. CH2Cl2 and water were added, the phases were separated and the aqueous layer extracted with CH2Cl2 (×2). The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo. The residual material was purified by flash chromatography on silica gel (c-hexane/AcOEt 1-0 to 0-1) to give the title compound. TLC, Rf (EtOAc)=0.85.

reactant | (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester | 1.32 mmol, 300 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C11H17NO4
reactant | 3,3-dimethyl-butylamine | 1.32 mmol, 134 mg | CC(CCN)(C)C | C6H15N
reactant | HBTU | 1.98 mmol, 751 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 5.28 mmol, 0.922 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (1R,3S,5R)-3-(3,3-Dimethyl-butylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane 2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCCC(C)(C)C)=O | C17H30N2O3
